US07378417B2
3-Amino-N-(1-hydroxymethyl-cyclopentyl)-benzenesulfonamide
A mixture of 3-nitro-benzenesulfonyl chloride (0.89 g, 4 mmol) and (1-amino-cyclopentyl)-methanol (0.46 g, 4 mmol) in dichloromethane (4 mL)/sat. sodium bicarbonate solution (4 mL) was stirred at 20° C. for 20 h. The mixture was diluted with dichloromethane (20 mL). The layers were separated and the organic layer was washed with water, dried (Na2SO4) and evaporated in vacuo. The solid residue was dissolved in ethanol (20 mL) and hydrogenated in the presence of 5% palladium-charcoal (0.2 g) to give the title compound (0.64 g, 59%). Off-white solid. MS (ISP) 271.4 [(M+H)+]; mp 130-132° C.

reactant | 3-nitro-benzenesulfonyl chloride | 4 mmol, 0.89 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | (1-amino-cyclopentyl)-methanol | 4 mmol, 0.46 g | NC1(CCCC1)CO | C6H13NO
reactant | sodium bicarbonate | 4 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-Amino-N-(1-hydroxymethyl-cyclopentyl)-benzenesulfonamide | 0.64 g, 59% | NC=1C=C(C=CC1)S(=O)(=O)NC1(CCCC1)CO | C12H18N2O3S
